US08211907B2
(−)-(4aR,9bR)-4a-Methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine was made into a hydrochloride by a conventional method, and then recrystallized from ethyl acetate/ethanol to obtain (4aR,9bR)-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine hydrochloride as a colorless crystal.

reactant | (−)-(4aR,9bR)-4a-Methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine | C[C@@]12[C@@H](NCCC1)C1=CC=CC=C1C2 | C13H17N
reactant | hydrochloride | Cl | ClH
product | (4aR,9bR)-4a-methyl-2,3,4,4a,5,9b-hexahydro-1H-indeno[1,2-b]pyridine hydrochloride | Cl.C[C@@]12[C@@H](NCCC1)C1=CC=CC=C1C2 | InChI=1S/C13H17N.ClH/c1-13-7-4-8-14-12(13)11-6-3-2-5-10(11)9-13;/h2-3,5-6,12,14H,4,7-9H2,1H3;1H/t12-,13+;/m0./s1
